US06537994B2
4-[(2S)-3-(2-{4-[2-(2-Cyclopentyl-ethyl)-imidazo[4,5-b]pyridin-3-yl]-phenyl}-ethylamino)-2-hydroxy-propoxy]-phenol
tert-Butyl 4-[(3-amino-2-pyridinyl)amino]phenethylcarbamate (1.0 g, 3.05 mmol) was dissolved in anhydrous pyridine and 3-cyclopentylpropanoyl chloride (0.489 g, 3.04 mmol) added. The reaction was heated at 100° C. for 18 hours. The solvent was removed and the residue partitioned between water and chloroform. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and filtered. The solution was taken to dryness in vacuo and the residue purified by flash chromatography on silica gel Merck-60 (eluant 20:1 chloroform-methanol followed by 1:1 ethyl acetate-hexane) to yield the title compound (0.93 g, 2.14 mmol).

reactant | tert-Butyl 4-[(3-amino-2-pyridinyl)amino]phenethylcarbamate | 3.05 mmol, 1.0 g | NC=1C(=NC=CC1)NC1=CC=C(CCNC(OC(C)(C)C)=O)C=C1 | C18H24N4O2
reactant | 3-cyclopentylpropanoyl chloride | 3.04 mmol, 0.489 g | C1(CCCC1)CCC(=O)Cl | C8H13ClO
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-[(2S)-3-(2-{4-[2-(2-Cyclopentyl-ethyl)-imidazo[4,5-b]pyridin-3-yl]-phenyl}-ethylamino)-2-hydroxy-propoxy]-phenol | 2.14 mmol, 0.93 g | C1(CCCC1)CCC1=NC=2C(=NC=CC2)N1C1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C30H36N4O3
